US05569655
To a mixture of pyrazole (88.3 g, 1.297 mol) and formalin (116 ml, 33%, 1.4 mol) in 450 ml of ethanol at 0*C was added pyrrolidine (101.2 g, 1.425 mol) dropwise, and the mixture was heated to reflux under nitrogen for 5 h. The reaction mixture was cooled, and concentrated in vacuo. The residue was distilled (57°-58° C./0.05 mm) to afford 140 g (55.12%) of 1-(1-pyrrolidinomethyl)-pyrazole.

reactant | pyrazole | 1.297 mol, 88.3 g | N1N=CC=C1 | C3H4N2
reactant | formalin | 1.4 mol, 116 ml | C=O | CH2O
reactant | pyrrolidine | 1.425 mol, 101.2 g | N1CCCC1 | C4H9N
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 1-(1-pyrrolidinomethyl)-pyrazole | 140 g, 55.12% | N1(CCCC1)CN1N=CC=C1 | C8H13N3
